US04464300
3 g of 7-chloro-5-(2-fluorophenyl)-2-hydrazino-3H-1-benzazepine are dissolved in 40 ml of dimethylformamide. After adding 3.6 g of N,N'-carbonyldiimidazole, the mixture is stirred at 50° for 16 hours. The solution obtained is then poured into 700 ml of water and extracted with ethyl acetate. The organic extracts are washed with water and saturated sodium chloride solution, dried and evaporated. The residue is chromatographed on 200 g of silica gel while eluting with chloroform/ethanol (98.5:1.5). After recrystallization from diisopropyl ether, there is obtained 8-chloro-6-(2-fluorophenyl)-2,4-dihydro-1H-s-triazolo[4,3-a][1]benzazepin -1-one of melting point 223°-225°.

reactant | 7-chloro-5-(2-fluorophenyl)-2-hydrazino-3H-1-benzazepine | 3 g | ClC=1C=CC2=C(C(=CCC(=N2)NN)C2=C(C=CC=C2)F)C1 | C16H13ClFN3
reactant | water | 700 ml | O | H2O
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 8-chloro-6-(2-fluorophenyl)-2,4-dihydro-1H-s-triazolo[4,3-a][1]benzazepin -1-one | ClC=1C=CC2=C(C(=CCC=3N2C(NN3)=O)C3=C(C=CC=C3)F)C1 | C17H11ClFN3O
